US08404856B2
Step 2: 3-chloro-5-{[2-oxo-1-(1H-pyrazolo[3,4-b]pyridin-3-ylmethyl)-4-(trifluoromethyl)-1,2-dihydropyridin-3-yl]oxy}benzonitrile 13-2
To a round bottom flask charged with tert-butyl 3-{[3-(3-chloro-5-cyanophenoxy)-2-oxo-4-(trifluoromethyl)pyridin-1(2H)-yl]methyl}-1H-pyrazolo[3,4-b]pyridine-1-carboxylate (0.940 g, 1.72 mmol) was added TFA (50 mL). After 30 minutes, the reaction mixture was concentrated under reduced pressure. The residue was dissolved in hot acetonitrile (500 mL), hot filtered and allowed to cool to room temperature. After 1 day, the crystallized solids were filtered to yield the title compound as a white solid. 1H NMR (DMSO-d6) δ 13.65 (s, 1H), 8.52 (d, J=4.5 Hz, 1H), 8.15 (d, J=8.1 Hz, 1H), 8.05 (d, J=7.2 Hz, 1H), 7.76-7.73 (m, 1H), 7.58-7.54 (m, 1H), 7.51-7.48 (m, 1H), 7.18 (dd, J=8.1 Hz, J=4.5 Hz, 1H), 6.63 (d, J=7.3 Hz, 1H), 5.53 (s, 2H). HRMS (M+1)=446.0626.

reactant | tert-butyl 3-{[3-(3-chloro-5-cyanophenoxy)-2-oxo-4-(trifluoromethyl)pyridin-1(2H)-yl]methyl}-1H-pyrazolo[3,4-b]pyridine-1-carboxylate | 1.72 mmol, 0.940 g | ClC=1C=C(OC=2C(N(C=CC2C(F)(F)F)CC2=NN(C3=NC=CC=C32)C(=O)OC(C)(C)C)=O)C=C(C1)C#N | C25H19ClF3N5O4
solvent | TFA | 50 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 3-chloro-5-{[2-oxo-1-(1H-pyrazolo[3,4-b]pyridin-3-ylmethyl)-4-(trifluoromethyl)-1,2-dihydropyridin-3-yl]oxy}benzonitrile | ClC=1C=C(C#N)C=C(C1)OC=1C(N(C=CC1C(F)(F)F)CC1=NNC2=NC=CC=C21)=O | C20H11ClF3N5O2
